US09283213B2
Step 1: Synthesis of nicotinoyl chloride
To a solution of nicotinic acid (2 g, 16.2 mmol) in anhydrous THF (30 mL) was added SOCl2 (2.4 mL, 32.5 mmol). After stirring at 80° C. for 2 hours, the mixture was concentrated in vacuo

reactant | nicotinic acid | 16.2 mmol, 2 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | SOCl2 | 32.5 mmol, 2.4 mL | O=S(Cl)Cl | Cl2OS
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | nicotinoyl chloride | C(C1=CN=CC=C1)(=O)Cl | C6H4ClNO
